US08536097B2
Step 1: Synthesis of 3-fluoro-4-(pentafluoroethyl)bromobenzene
13.2 g (91.9 mmol) of copper(I) bromide were cooled to −5° C. in 80 ml of dry N,N-dimethylformamide. Under nitrogen, 14.7 g (76.7 mmol) of trimethyl-(pentafluoroethyl)silane were added. 4.45 g (76.7 mmol) of potassium fluoride (spray-dried) were added in portions over the course of 30 minutes at a rate such that the internal temperature remained below 0° C. The mixture was stirred at 0° C. for 1 hour and was then warmed to 20° C. over the course of 12 hours. Thereafter 10 ml of dry 1,3-dimethyl-2-imidazolidinone and 22 g (73.1 mmol) of 3-fluoro-4-iodo-bromobenzene were added. The contents were stirred at 75° C. for 14 hours. Then all of the volatile constituents were distilled off to dryness, the distillate being collected in a cold trap cooled with liquid nitrogen. The distillate was subsequently warmed to 20° C. and dissolved in 500 ml of diethyl ether. This solution was washed with four times 100 ml of water and then with two times 100 ml of saturated aqueous NaCl solution. The organic phase was then dried, and the solvent was removed on a Vigreux column. Subsequent distillation of the residue on a Vigreux column gave 16.1 g of product (boiling point: 86-87° C. (75 mmHg)) with a purity of 99% by weight.

reactant | trimethyl-(pentafluoroethyl)silane | 76.7 mmol, 14.7 g | C[Si](C(C(F)(F)F)(F)F)(C)C | C5H9F5Si
reactant | potassium fluoride | 76.7 mmol, 4.45 g | [F-].[K+]
reactant | 1,3-dimethyl-2-imidazolidinone | 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | 3-fluoro-4-iodo-bromobenzene | 73.1 mmol, 22 g | FC=1C=C(C=CC1I)Br | C6H3BrFI
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
catalyst | copper(I) bromide | 91.9 mmol, 13.2 g | [Cu]Br
product | 3-fluoro-4-(pentafluoroethyl)bromobenzene | 16.1 g | FC=1C=C(C=CC1C(C(F)(F)F)(F)F)Br | C8H3BrF6
